US08686002B2
6-Chloro-3-(2-fluoro-6-methoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-5-chlorobenzaldehyde and 3-(2-fluoro-6-methoxyphenyl)propionitrile. Instead of dioxane, tert-butanol was used from [sic; as] the solvent. Reaction time: 5 minutes at 120° C.

reactant | 2-amino-5-chlorobenzaldehyde | NC1=C(C=O)C=C(C=C1)Cl | C7H6ClNO
reactant | 3-(2-fluoro-6-methoxyphenyl)propionitrile | FC1=C(C(=CC=C1)OC)CCC#N | C10H10FNO
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 6-Chloro-3-(2-fluoro-6-methoxybenzyl)quinolin-2-amine | ClC=1C=C2C=C(C(=NC2=CC1)N)CC1=C(C=CC=C1OC)F | C17H14ClFN2O
